US07132436B2
3-Chloro-N-(7-methoxy4,5-dihydronaphtho[1,2 -d][1,3]thiazol-2-yl)-2-methylbenzenesulfonamide
The title compound was prepared from 7-methoxy-4,5-dihydronaphto[1,2-D][1,3]thiazol-2-amine hydrobromide and 3-chloro-2-methylbenzenesulfonyl chloride as described in the synthetic METHOD B to give a white solid (30.7 mg) with purity >90%. MS (pos) m/z 421.1.

reactant | 7-methoxy-4,5-dihydronaphto[1,2-D][1,3]thiazol-2-amine hydrobromide | Br.COC=1C=C2CCC3=C(N=C(S3)N)C2=CC1
reactant | 3-chloro-2-methylbenzenesulfonyl chloride | ClC=1C(=C(C=CC1)S(=O)(=O)Cl)C | C7H6Cl2O2S
product | 3-Chloro-N-(7-methoxy4,5-dihydronaphtho[1,2 -d][1,3]thiazol-2-yl)-2-methylbenzenesulfonamide | ClC=1C(=C(C=CC1)S(=O)(=O)NC=1SC2=C(N1)C1=CC=C(C=C1CC2)OC)C | C19H17ClN2O3S2
